US08809267B2
To 2-isopropylamino-oxazole-4-carboxylic acid ethyl ester (2.5 g, 10.9 mmol) in EtOH (42 mL) and water (28 mL) was added NaOH (3.1 g, 77.4 mmol). The mixture was stirred at rt for 16 h, then cooled in an ice-bath and acidified to pH 3 with conc. HCl. The mixture was concentrated in vacuo to remove ethanol. The remaining aqueous phase was extracted with CH2Cl2 (3×200 mL). The organic phases were combined, dried over MgSO4 and concentrated to give 2-isopropylaminooxazole-4-carboxylic acid (1.86 g, 87% yield). LCMS found 171 [M+H]+.

reactant | 2-isopropylamino-oxazole-4-carboxylic acid ethyl ester | 10.9 mmol, 2.5 g | C(C)OC(=O)C=1N=C(OC1)NC(C)C | C9H14N2O3
reactant | NaOH | 77.4 mmol, 3.1 g | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | EtOH | 42 mL | CCO | C2H6O
solvent | water | 28 mL | O | H2O
product | 2-isopropylaminooxazole-4-carboxylic acid | 1.86 g, 87% yield | C(C)(C)NC=1OC=C(N1)C(=O)O | C7H10N2O3
